US04956359
1-[3-(3,4-Dichlorophenoxy)-1-azetidinylcarbonyl]-4-(phenylmethyl)piperazine fumarate [1:1]
A stirred solution of 2.8 g (0.01 mole) of crude 3-(3,4-dichlorophenoxy)-1-azetidinecarbonyl chloride in 25 ml of tetrahydrofuran was treated with 1.8 g (0.01 mole) of 1-benzylpiperazine then with 1.4 g (0.01 mole) of potassium carbonate. After stirring for 30 min, approximately 2 g of ice was added and stirring continued for 18 hr. The reaction mixture was diluted with 200 ml of water. After stirring for 24 hr, the oil which separated had solidified and was collected by filtration (4.8 g). The solid, dissolved in 20 ml of isopropanol, was treated with 1.16 g of fumaric acid dissolved in 25 ml of boiling isopropanol. Upon cooling, the precipitate was collected to yield 2.4 g (55%) of fine white crystalline product, m.p. 193°-195° C.

reactant | 3-(3,4-dichlorophenoxy)-1-azetidinecarbonyl chloride | 0.01 mole, 2.8 g | ClC=1C=C(OC2CN(C2)C(=O)Cl)C=CC1Cl | C10H8Cl3NO2
reactant | 1-benzylpiperazine | 0.01 mole, 1.8 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | potassium carbonate | 0.01 mole, 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 1-[3-(3,4-Dichlorophenoxy)-1-azetidinylcarbonyl]-4-(phenylmethyl)piperazine fumarate | 2.4 g, 55% | C(\C=C\C(=O)O)(=O)O.ClC=1C=C(OC2CN(C2)C(=O)N2CCN(CC2)CC2=CC=CC=C2)C=CC1Cl | InChI=1S/C21H23Cl2N3O2.C4H4O4/c22-19-7-6-17(12-20(19)23)28-18-14-26(15-18)21(27)25-10-8-24(9-11-25)13-16-4-2-1-3-5-16;5-3(6)1-2-4(7)8/h1-7,12,18H,8-11,13-15H2;1-2H,(H,5,6)(H,7,8)/b;2-1+
